US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-(2-Toluoylmethyl) -2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.00 g) was suspended in 4N HCl-dioxane (10 ml), the suspension was stirred at 50° C. for one hour. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in water, the solution was washed with diethyl ether, alkaline with saturated aqueous sodium bicarbonate, and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate), to thereby obtain 538 mg of the titled compound.

reactant | 1-(2-Toluoylmethyl) -2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.00 g | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C)=O)C | C29H37N3O5
solvent | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 538 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)N)=O)C | C24H29N3O3
